US05795887
2-Bromo-N-isopropyl-N-phenyl-acetamide
Isopropyl aniline (8.00 g, 59.2 mmol) and triethylamine (8.26 mL, 59.2 mmol) are combined in anhydrousDCM (75 mL) under nitrogen and cooled to 0°-5° C. with an ice-water bath. Bromoacetyl bromide (5.16 mL, 59.2 mmol) is added dropwise over approximately 10 min. and the reaction is allowed to stir to ambient temperature overnight. The mixture is combined with aqueous HCl (50 mL 1N) and transferred to a separatory funnel. The organic layer is separated, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to provide the title compound as a brown solid (15.13 g, 59.1 mmol). 1H NMR (300 MHz, CDCl3) δ=1.08 (d, J=6.8 Hz, 6H); 3.53 (s, 2H); 4.92-5.01 (m, 1H); 7.18-7.54 (m, 5H). TLC Rf=0.22 (3:17 ethyl acetate: hexane).

reactant | Isopropyl aniline | 59.2 mmol, 8.00 g | C(C)(C)NC1=CC=CC=C1 | C9H13N
reactant | triethylamine | 59.2 mmol, 8.26 mL | C(C)N(CC)CC | C6H15N
reactant | Bromoacetyl bromide | 59.2 mmol, 5.16 mL | BrCC(=O)Br | C2H2Br2O
solvent | HCl | 1N, 50 mL | Cl | ClH
product | 2-Bromo-N-isopropyl-N-phenyl-acetamide | 59.1 mmol, 15.13 g | BrCC(=O)N(C1=CC=CC=C1)C(C)C | C11H14BrNO
